US05571825
A solution of 4,4'-dichlorobenzhydrol (Aldrich) (500 mg, 1.97 mmol), mercaptoacetic acid (181 mg, 1.97 mmol) and ρ-toluenesulfonic acid monohydrate (93 mg, 0.49 mmol) in 7 mL of toluene is stirred at room temperature for 2 hours followed by heating at 50°-60° C. for 1 hour. Upon cooling, the mixture is diluted with ethyl acetate, washed with water, brine, and dried over magnesium sulfate. The product is concentrated in vacuo to give [[bis-(4-chlorophenyl)methyl]thio]acetic acid as a pale yellow oil.

reactant | 4,4'-dichlorobenzhydrol | 1.97 mmol, 500 mg | ClC1=CC=C(C(C2=CC=C(C=C2)Cl)O)C=C1 | C13H10Cl2O
reactant | mercaptoacetic acid | 1.97 mmol, 181 mg | SCC(=O)O | C2H4O2S
reactant | ρ-toluenesulfonic acid monohydrate | 0.49 mmol, 93 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [[bis-(4-chlorophenyl)methyl]thio]acetic acid | ClC1=CC=C(C=C1)C(SCC(=O)O)C1=CC=C(C=C1)Cl | C15H12Cl2O2S
